US04089688
1:1 copolymer of acrylamide/N-vinyl-t-butylcarbamate
3.56 g of acrylamide and 7.15 g of N-vinyl-t-butylcarbamate were dissolved in 90 mls of benzene. 0.01 g of 2,2'-azobis-[2-methylpropionitrile] was added and the solution was polymerized under N2 in a sealed tube for 24 hours. The resultant viscous liquid was precipitated in acetone and the precipitate was separated and dried under vacuum at 50° C.

reactant | acrylamide | 3.56 g | C(C=C)(=O)N | C3H5NO
reactant | N-vinyl-t-butylcarbamate | 7.15 g | C(=C)N(C([O-])=O)C(C)(C)C
reactant | 2,2'-azobis-[2-methylpropionitrile] | 0.01 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 90 mls | C1=CC=CC=C1 | C6H6
product | acrylamide N-vinyl-t-butylcarbamate | C(C=C)(=O)N.C(=C)N(C([O-])=O)C(C)(C)C | InChI=1S/C7H13NO2.C3H5NO/c1-5-8(6(9)10)7(2,3)4;1-2-3(4)5/h5H,1H2,2-4H3,(H,9,10);2H,1H2,(H2,4,5)/p-1
